US07381719B2
Part B: {2-[4-(6-Cyanopyridin-2-yloxy)phenyl]ethyl}carbamic acid tert-butyl ester
Using a method similar to Example 381 Part A, using [2-(4-hydroxyphenyl)ethyl]carbamic acid tert-butyl ester (0.140 g, 0.588 mmol), NaH (80% in mineral oil) (0.194 g. 0.647 mmol) and 6-bromopyridine-2-carbonitrile (0.107 g, 0.588 mmol) gives the title compound (0.0895 g, 44.8%): MS ES+ 340.2 (M+H)+, base peak MS ES+ 284.0 (M+2H—C(CH3)3)+, MS ES− 338.3 (M−H)−; TLC [silica gel 60 F254, 40% ethyl acetate in hexanes] Rf=0.24.

reactant | [2-(4-hydroxyphenyl)ethyl]carbamic acid tert-butyl ester | 0.588 mmol, 0.140 g | C(C)(C)(C)OC(NCCC1=CC=C(C=C1)O)=O | C13H19NO3
reactant | NaH | 0.647 mmol, 0.194 g | [H-].[Na+]
reactant | 6-bromopyridine-2-carbonitrile | 0.588 mmol, 0.107 g | BrC1=CC=CC(=N1)C#N | C6H3BrN2
product | {2-[4-(6-Cyanopyridin-2-yloxy)phenyl]ethyl}carbamic acid tert-butyl ester | 0.0895 g, 44.8% | C(C)(C)(C)OC(NCCC1=CC=C(C=C1)OC1=NC(=CC=C1)C#N)=O | C19H21N3O3
